US04659721
(a) Preparation of 1-Chloro-3-dibenzylamino-2-propanol
4.93 g (0.25 mol) of dibenzylamine and 25.4 g (0.275 mol) of epichlorohydrin are stirred for 3 hours under nitrogen at 85° to 90° C. The golden yellow oil obtained is distilled under a high vacuum. 50.5 g (70%) of a colourless oil are obtained.

reactant | dibenzylamine | 0.25 mol, 4.93 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | epichlorohydrin | 0.275 mol, 25.4 g | C(Cl)C1CO1 | C3H5ClO
product | 1-Chloro-3-dibenzylamino-2-propanol | 50.5 g, 70% | ClCC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C17H20ClNO
